US07482342B2
5-Iodo-1H-indazole-3-carboxylic acid
5-Iodoisatin (5 g, 18.3 mmol) is heated in the presence of sodium hydroxide (0.77 g, 19.2 mmol in 12 ml H2O) until dissolution is obtained and then the reaction mixture is cooled to 0° C. A sodium nitrite solution cooled beforehand to 0° C. (1.26 g, 18.3 mmol in 5.5 ml H2O) is added. The paste obtained is added in small portions, with vigorous stirring, to a sulphuric acid solution (3.40 g, 34.8 mmol in 37 ml H2O) precooled to 0° C. so that the temperature does not exceed 4° C. The stirring is maintained for 15 min and then a tin chloride solution (SnCl2.2H2O, 9.91 g, 43.9 mmol in 15 ml concentrated HCl) is slowly added such that the temperature does not exceed 4° C. The medium is allowed to react for several hours. The reaction mixture is filtered. The solid is washed with boiling water and then taken up in ethanol in the hot state. The insoluble impurities are removed by filtration.

reactant | 5-Iodoisatin | 18.3 mmol, 5 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | sodium hydroxide | 19.2 mmol, 12 ml, 0.77 g | [OH-].[Na+]
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulphuric acid | 34.8 mmol, 37 ml, 3.40 g | S(O)(O)(=O)=O | H2O4S
reactant | tin chloride | 43.9 mmol, 15 ml, 9.91 g | [Sn](Cl)(Cl)(Cl)Cl
solvent | H2O | 5.5 ml | O | H2O
product | 5-Iodo-1H-indazole-3-carboxylic acid | IC=1C=C2C(=NNC2=CC1)C(=O)O | C8H5IN2O2
